US07199105B2
To ethyl acetylene (140 mg, 2.6 mmol) in THF (5 mL) at −78° C., n-butyllithium (1.1 mL, 2.6 mmol) was added with stirring at −78° C. for 1 hour. Then 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (prepared as described in the example 56) (570 mg, 2.3 mmol) in THF (5 mL) was added at −78° C. with stirring for 2 h, the reaction mixture was then allowed to warm to −40° C. over 1 h. The reaction mixture was extracted with EtOAc (20 mL), washed with saturated NH4Cl (5 mL) and dried over sodium sulfate. Purification of the crude product was carried out by silica gel chromatography using 50% EtOAc in hexane to obtain the 4-butyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (520 mg, 73%). To the DAST (556 mg, 3.4 mmol) in DCM (5 mL) at −78° C., was added a solution of the above ester (520 mg, 1.7 mmol) in DCM (5 mL) at −78° C. and stirred for 1 hour. The reaction mixture was extracted with DCM (50 mL) and washed with NaHCO3 (30 mL, 10%). The product obtained after removal of solvent was purified by silica gel chromatography using 5% EtOAc in hexanes to obtain 4-butyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (276 mg, 52%).

reactant | ethyl acetylene | 2.6 mmol, 140 mg | C(C)C#C | C4H6
reactant | n-butyllithium | 2.6 mmol, 1.1 mL | C(CCC)[Li]
reactant | 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)=O)C(=O)OC(C)(C)C | C11H17NO5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-butyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 520 mg, 73% | COC(=O)C1N(CC(C1)(O)CCCC)C(=O)OC(C)(C)C | C15H27NO5
